US07834051B2
4-[(6S,7R)-7-(tert-butyldimethylsilyloxy)-6-ethyl-4-oxo-5-azaspiro[2.4]hept-5-yl]-2-(trifluoromethyl)benzonitrile
Using (6S)-7-(tert-butyldimethylsilyloxy)-6-ethyl-5-azaspiro[2.4]heptan-4-one (397.8 mg), 4-iodo-2-trifluoromethylbenzonitrile (482 mg), cesium carbonate (721 mg), tris(dibenzylideneacetone)dipalladium(0) (68 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (171 mg), and in the same manner as in Reference Example 3, the title compound was obtained as a colorless solid (yield: 433.7mg, yield: 67%).

reactant | (6S)-7-(tert-butyldimethylsilyloxy)-6-ethyl-5-azaspiro[2.4]heptan-4-one | 397.8 mg | [Si](C)(C)(C(C)(C)C)OC1[C@@H](NC(C12CC2)=O)CC | C14H27NO2Si
reactant | 4-iodo-2-trifluoromethylbenzonitrile | 482 mg | IC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F3IN
reactant | cesium carbonate | 721 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 171 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 68 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(6S,7R)-7-(tert-butyldimethylsilyloxy)-6-ethyl-4-oxo-5-azaspiro[2.4]hept-5-yl]-2-(trifluoromethyl)benzonitrile | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](N(C(C12CC2)=O)C2=CC(=C(C#N)C=C2)C(F)(F)F)CC | C22H29F3N2O2Si
